### PR TITLE
fix(OEIS/167918): ask whether the ratio is bounded, state existence

### PR DESCRIPTION
**Pull request by mo271**
Follow-up to https://github.com/google-deepmind/formal-conjectures/pull/5529, which dropped the existence hypothesis from `conjecture1`.

- `conjecture2` is now `answer(sorry) ↔ ∃ C, ∀ n > 0, S (a n) / S n ≤ C`. OEIS comment (5a)
  asks whether f(n,k) is bounded; it does not conjecture a bound. The hypothesis
  `∀ n > 0, a n ≠ 0` is dropped for the same reason as in `conjecture1`: an undefined index
  contributes the quotient S 0 / S n = 4 / S n = 0, so it does not affect boundedness, whereas
  with the hypothesis a single undefined index made the statement vacuous.
- New `conjecture_infinite : ∀ n > 0, ∃ k > n, S n ∣ S k`, OEIS comment (1) ("the sequence is
  infinite"), which is exactly what the dropped hypothesis was assuming.

identified by @tadamcz running an AI pipeline: https://tadamcz.com/fc-review-results/#/f/OEIS/167918

### CODE REVIEW

File: FormalConjectures/OEIS/167918.lean [hunk 1]
```diff
@@ -192,26 +192,34 @@ theorem a_4 : a 4 = 7 := by
     unfold a; split <;> [omega; rfl]
   rw [ha4, h_least.csInf_eq]
 
+/--
+Conjecture: the sequence is infinite, that is, for every $n \geq 1$ there is some $k > n$
+with $S(n) \mid S(k)$, so that $a(n)$ is defined.
+-/
+@[category research open, AMS 11]
+theorem conjecture_infinite : ∀ n > 0, ∃ k > n, S n ∣ S k := by
```
Comment (smmercuri) [inline FormalConjectures/OEIS/167918.lean]: Can you left-of-colon styling here?

File: FormalConjectures/OEIS/167918.lean [hunk 2]
```diff
@@ -195,6 +195,14 @@ theorem a_4 : a 4 = 7 := by
...
```
Comment (mo271) [inline FormalConjectures/OEIS/167918.lean]:
```suggestion
theorem conjecture_infinite (n : ℕ) (hn : n > 0) : ∃ k > n, S n ∣ S k := by
```

File: FormalConjectures/OEIS/167918.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/OEIS/167918.lean]: like this?

File: FormalConjectures/OEIS/167918.lean (hunk 2 above)
Comment (smmercuri) [reply FormalConjectures/OEIS/167918.lean]: yup!

**Review by smmercuri — APPROVED** [review]
